US06376484B1
5-phenylmethyltetrazole
The mixture of 5-(2,6-dichlorophenylmethyl)tetrazole (355 mg), 5% palladium on activated carbon (93 mg) and methanol (8 ml) was stirred for 1 h room temperature under an atmosphere of hydrogen gas. The reaction mixture was filtered through Celite (trade mark) and the filtrate was concentrated to give the title compound having the following physical data.

reactant | 5-(2,6-dichlorophenylmethyl)tetrazole | 355 mg | ClC1=C(C(=CC=C1)Cl)CC1=NN=NN1 | C8H6Cl2N4
catalyst | palladium on activated carbon | 93 mg | [Pd] | Pd
solvent | methanol | 8 ml | CO | CH4O
product | 5-phenylmethyltetrazole | C1(=CC=CC=C1)CC1=NN=NN1 | C8H8N4
